US08975254B2
a) 2-chloro-4-(4-chloro-1H-pyrazol-5-yl)benzonitrile hydrochloride
2-chloro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile (12.0 g, 41.7 mmol) was dissolved in acetic acid (20 ml) and sodium hypochlorite solution (29.0 ml, 416 mmol) was added. The reaction mixture was stirred at RT overnight. Further again, acetic acid (120 ml) and sodium hypochlorite solution (14 ml) were added and the mixture was stirred at RT overnight. The precipitate was filtrated and washed with water and DCM. The precipitate was dried in vacuum 40° C. overnight to yield 5.8 grams of 2-chloro-4-(4-chloro-1H-pyrazol-5-yl)benzonitrile. The mixture of 2-chloro-4-(4-chloro-1H-pyrazol-5-yl)benzonitrile (5.8 g, 24.36 mmol) and 10% HCl/ethanol solution (167 ml, 365 mmol) was stirred for 2 h at RT and the precipitate was filtrated and washed with water. The precipitate was silted up with ethanol to yield 4.0 g of the raw material. The product was purified with Flash-chromatography to yield total 18% of the title compound. 1H NMR (400 MHz; d6-DMSO): δ 8.05 (m, 2H), 8.16 (m, 2H).

reactant | 2-chloro-4-(4-chloro-1H-pyrazol-5-yl)benzonitrile | 24.36 mmol, 5.8 g | ClC1=C(C#N)C=CC(=C1)C1=C(C=NN1)Cl | C10H5Cl2N3
reactant | HCl ethanol | 365 mmol, 167 ml | Cl.C(C)O
product | 2-chloro-4-(4-chloro-1H-pyrazol-5-yl)benzonitrile hydrochloride | 18% | Cl.ClC1=C(C#N)C=CC(=C1)C1=C(C=NN1)Cl | InChI=1S/C10H5Cl2N3.ClH/c11-8-3-6(1-2-7(8)4-13)10-9(12)5-14-15-10;/h1-3,5H,(H,14,15);1H
